### PR TITLE
Leftist Heap formalization

### PR DESCRIPTION
**Pull request by volodeyka**

### CODE REVIEW

File: LeftistHeap.v [hunk 1]
```diff
@@ -0,0 +1,948 @@
...
+Proof. move=> /=. by rewrite !addn0. Qed.
+
+Let countE := (count_Node, count_E, count_NodexEE).
+
+End Conut.
+
+Lemma in_count x h: x \in h = (0 < count (xpred1 x) h)%N.
+Proof.
+elim h=> // n y h1 IHh1 h2 IHh2; rewrite in_Node /= !addn_gt0 IHh1 IHh2 eq_sym; by case: (y == x).
+Qed.
```
Comment (anton-trunov) [inline LeftistHeap.v:147]: Let's stick to the customary 80 characters per line rule:
```Lemma in_count x h: x \in h = (0 < count (pred1 x) h)%N.
Proof.
elim: h=> //= n y h1 IHh1 h2 IHh2.
by rewrite !addn_gt0 lt0b -orbA -IHh1 -IHh2 eq_sym.
Qed.
```

Btw, instead of using a rule like `in_node` we should add a universal multirule like
```
Let inE := ( (* maybe a rule for singleton trees should go here *), in_node, inE).
```

and use it as `rewrite inE` with possible addition of `?` / `!`...

File: LeftistHeap.v [hunk 2]
```diff
@@ -0,0 +1,948 @@
...
+Definition f2 (x y : nat) := x + y + 1.
+
+Lemma sizeNode : forall tl tr n x, size [tl| x, n |tr] = f2 (size tl) (size tr).
+Proof. by []. Qed.
+
+Lemma size__NodexEE : f2 (size  [||]) (size  [||]) = 1%N.
+Proof. by []. Qed.
+
+Lemma size_Node_E : forall h1 h2 n x, (size  [||] < size [h1 | n, x | h2])%N.
+Proof. move=> /= h1 h2 n x. rewrite addn_gt0; apply/orP; by right. Qed.
```
Comment (anton-trunov) [inline LeftistHeap.v:177]: Just some stylistic changes (didn't try if that compiles)
```suggestion
Lemma size_Node_E h1 h2 n x: (size  [||] < size [h1 | n, x | h2])%N.
Proof. by rewrite addn_gt0 /=; apply/orP; right. Qed.
```

File: LeftistHeap.v [hunk 3]
```diff
@@ -0,0 +1,948 @@
...
+
+Fixpoint spine_in p h : bool :=
+match p, h with
+| r :: p, Node _ _ _ tr => spine_in p tr
+| l :: p, Node _ _ tl _ => spine_in p tl
+| [::],   Emp          => true
+| _,      _          => false
+end.
+
+Fixpoint Right p : bool :=
```
Comment (anton-trunov) [inline LeftistHeap.v:262]:
```suggestion
Fixpoint right p : bool :=
```

File: LeftistHeap.v [hunk 4]
```diff
@@ -0,0 +1,948 @@
...
+  [&& (measure tr <= measure tl)%N, (leftist_inv tl) & (leftist_inv tr)]
+else true.
+
+Fact leftist_inv_NodexEE n x : leftist_inv [[||]| n, x |  [||]].
+Proof. move=> /=; by rewrite leqnn. Qed.
+Hint Resolve leftist_inv_NodexEE : core.
+
+Fact leftist_inv_E : leftist_inv [||]. Proof. by []. Qed.
+
+Variant side := r | l.
```
Comment (anton-trunov) [inline LeftistHeap.v:250]:
```suggestion
Variant side := R | L.
```

File: LeftistHeap.v [hunk 5]
```diff
@@ -0,0 +1,948 @@
...
+| [::]    => true
+end.
+
+Lemma rigth_correct : forall x s, Right (x :: s) -> ((x = r) * Right s).
+Proof. move=> [] //=. Qed.
+
+Lemma case_spine_in : forall side s n x tl tr, 
+spine_in (side :: s) (Node n x tl tr) -> 
+if side is r then spine_in s tr else spine_in s tl.
+Proof. move=> [] //=. Qed.
```
Comment (anton-trunov) [inline LeftistHeap.v:275]: Can we fix all the `forall` things across the file and add some indentation for the lemma statements?
```suggestion
Lemma case_spine_in side s n x tl tr :
  spine_in (side :: s) (Node n x tl tr) -> 
  if side is R then spine_in s tr else spine_in s tl.
Proof. by case. Qed.
```

File: LeftistHeap.v [hunk 6]
```diff
@@ -0,0 +1,948 @@
...
+Structure mixin_of {T : ordType} (measure : heap T -> nat) :=
+  Mixin {
+    measure1            : nat;
+    f                   : nat -> nat -> nat;
+    measureNode         : forall tl tr n x, measure [tl| x, n |tr] = f (measure tl) (measure tr);
+    measure_NodexEE     : f (measure [||]) (measure [||]) = measure1;
+    measure_Node_E      : forall h1 h2 n x, (measure [||] < measure [h1 | n, x | h2])%N
+  }.
+
+Notation class_of := mixin_of (only parsing).
```
Comment (anton-trunov) [inline LeftistHeap.v:52]: You most likely want to add a base class here.

File: LeftistHeap.v [hunk 7]
```diff
@@ -0,0 +1,948 @@
...
+| Node : nat -> T-> heap -> heap -> heap.
+
+End LeftistDef.
+Arguments Node {T}.
+Arguments Emp {T}.
+Notation "[ tl | n , x | tr ]" := (Node n x tl tr) (at level 0).
+Notation "'[||]'" := Emp.
+
+Module Measure.
+Structure mixin_of {T : ordType} (measure : heap T -> nat) :=
```
Comment (anton-trunov) [inline LeftistHeap.v:43]: I'm not sure a general type with measure should rely on the `heap` data structure.

File: LeftistHeap.v [hunk 8]
```diff
@@ -0,0 +1,948 @@
...
+
+Definition heap_eqclass := heap T.
+Identity Coercion heap_of_eqclass : heap_eqclass >-> heap.
+Coercion pred_of_heap (h : heap_eqclass) : {pred T} := mem_heap h.
+
+Canonical heap_predType := PredType pred_of_heap.
+(* The line below makes mem_seq a canonical instance of topred. *)
+Canonical mem_seq_predType := PredType mem_heap.
+
+Lemma in_Node x y n tl tr:
```
[the remark this answers is not in the document]
Comment (volodeyka) [reply LeftistHeap.v:121]: > should we replace `Node` with `node`?

File: LeftistHeap.v (hunk 6 above)
Comment (volodeyka) [reply LeftistHeap.v:52]: Can you explain please your suggestion a bit more clearly?
